US06153652
Synthesis of N-[(3-pyridyl)acetyl]-D,L-alanine iso-butyl ester
Following General Procedure F' and using 3-pyridylacetic acid hydrochloride (Aldrich) and D,L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as a solid having a melting point of 62°-64° C. The reaction was monitored by tlc on silica gel (Rf=0.48 10% methanol/dichloromethane) and purification was by silica gel chromatography.

reactant | 3-pyridylacetic acid hydrochloride | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | D,L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC(C(N)C)=O
product | N-[(3-pyridyl)acetyl]-D,L-alanine iso-butyl ester | C(C(C)C)OC(C(NC(CC=1C=NC=CC1)=O)C)=O | C14H20N2O3
